US08372866B2
5c) 2-[(4-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-amino-4H-1-benzopyran-4-one
2-[(4-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one (7 g; 15.5 mmol) was suspended in ethanol (250 mL), HCl 4N (16 mL; 62 mmol) was added and the mixture refluxed for 24 hours. After cooling, the reaction was concentrated and the precipitate was filtered off. The crude was suspended in diisopropyl ether, filtered and dried to give the titled compound as light yellow solid. 1H-NMR (d6-DMSO): 9.91 (s, 1H); 8.44 (d, 1H); 8.22 (d, 2H); 7.90 (d, 3H); 7.78 (d, 2H); 7.33 (d, 1H); 7.32 (m, 6H); 5.16 (s, 2H); MS (EI) 410 (M+1), 319 (M-91).

reactant | (4-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one | 15.5 mmol, 7 g | N1(C=NC=C1)C1=CC=C(C=C1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(C)=O | C27H21N3O4
reactant | HCl | 62 mmol, 4N, 16 mL | Cl | ClH
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | (4-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-amino-4H-1-benzopyran-4-one | N1(C=NC=C1)C1=CC=C(C=C1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)N | C25H19N3O3
